US05157027
E. 1-(3-Iodopropyl)-4-propylbenzene
To a stirred solution of 1.443 g (8.10 mmol) of Part D alcohol, 2.12 g (8.10 mmol) of triphenylphosphine and 1.18 mg (16.2 mmol) of imidazole in 30 mL of THF was added a solution of 2.06 g (8.1 mmol) of iodine in 10 mL of THF over 20 minutes. After 10 minutes, the light yellow reaction mixture was diluted with pentane and washed once each with 10% sodium bisulfite solution, water and brine. The organic layer was dried (MgSO4) and evaporated onto 5 g silica gel. Purification by flash chromatography (5×15 cm column) eluted with hexanes gave title iodide, 1.96 g (84%), as a colorless oil.

reactant | triphenylphosphine | 8.10 mmol, 2.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 16.2 mmol, 1.18 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 8.1 mmol, 2.06 g | II | I2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 1-(3-Iodopropyl)-4-propylbenzene | ICCCC1=CC=C(C=C1)CCC | C12H17I
